US08003649B2
Trifluoroacetic acid (5 mL, 64.90 mmol) was added to a mixture of tert-butyl 4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)piperazine-1-carboxylate (0.86 g, 2.32 mmol) and dichloromethane (20 mL). The resulting solution was stirred at 20° C. for 90 minutes and then evaporated to leave an involatile residue. The residue was purified by ion-exchange chromatography on an SCX column using aqueous ammonia (7M) in methanol as eluant to give 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine (0.540 g, 86%) as a yellow solid that was used without further purification.

reactant | Trifluoroacetic acid | 64.90 mmol, 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl 4-(3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridin-6-yl)piperazine-1-carboxylate | 2.32 mmol, 0.86 g | FC(C1=NN=C2N1C=C(C=C2)N2CCN(CC2)C(=O)OC(C)(C)C)(F)F | C16H20F3N5O2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6-(piperazin-1-yl)-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-a]pyridine | 0.540 g, 86% | N1(CCNCC1)C=1C=CC=2N(C1)C(=NN2)C(F)(F)F | C11H12F3N5
